US07183295B2
Synthesis of tert-Butyl 2-[3-[N-(3-hydroxypropyl)aminomethyl]phenoxy]butyrate
tert-Butyl 2-(3-formylphenoxy)butyrate (105.1 mg, 0.42 mmol) was dissolved in chloroform (10 ml) at room temperature, and thereto were added 3-amino-1-propanol (0.04 ml, 0.47 mmol), sodium triacetoxyborohydride (134.6 mg, 0.63 mmol) and acetic acid (0.03 ml, 0.51 mmol) in sequential order at the same temperature, and then stirred at room temperature for 24 hours. The reaction mixture was added to a saturated aqueous sodium hydrogencarbonate solution and thereafter extracted by chloroform, to obtain an organic layer. The extracted organic layer was washed with brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressured. The resultant substance was purified by silica gel column chromatography (chloroform/methanol=10/1), whereby the target compound was obtained as a colorless oil (43.3 mg, 33.3%).

reactant | tert-Butyl 2-(3-formylphenoxy)butyrate | 0.42 mmol, 105.1 mg | C(=O)C=1C=C(OC(C(=O)OC(C)(C)C)CC)C=CC1 | C15H20O4
reactant | 3-amino-1-propanol | 0.47 mmol, 0.04 ml | NCCCO | C3H9NO
reactant | sodium triacetoxyborohydride | 0.63 mmol, 134.6 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.51 mmol, 0.03 ml | C(C)(=O)O | C2H4O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | tert-Butyl 2-[3-[N-(3-hydroxypropyl)aminomethyl]phenoxy]butyrate | 43.3 mg, 33.3% | OCCCNCC=1C=C(OC(C(=O)OC(C)(C)C)CC)C=CC1 | C18H29NO4
